* source FULL_BRIDGE
X_M5         N47026 N50725 0 IRFP460
V_V15         N47208 0 DC 220V  
X_M6         N47208 N50721 N47026 IRFP460
V_V12         N50717 0  
+PULSE 0V 15V 20usec 0 0 2usec 20usec
V_V14         N50729 0  
+PULSE 0V 15V 30usec 0 0 2usec 20usec
C_C30         0 N50512  2.2u  TC=0,0 
C_C31         N50512 N47208  2.2u  TC=0,0 
R_R41         N50721 N50717  10 TC=0,0 
R_R42         N50725 N50729  10 TC=0,0 
R_R43         N50725 0  10k TC=0,0 
R_R44         N50721 N47026  10k TC=0,0 
X_TX9    N47026 N50512 N51822 0 SCHEMATIC1_TX9 
R_R45         N51822 0  10k TC=0,0 
V_V17         N53622 0  
+PULSE 0V 15V 20usec 0 0 2usec 20usec
V_V16         N53284 0 DC 220V  
X_M7         N53314 N53656 0 IRFP460
X_TX10    N53314 N53250 N53204 0 SCHEMATIC1_TX10 
R_R48         N53656 N53662  10 TC=0,0 
V_V18         N53662 0  
+PULSE 0V 15V 30usec 0 0 2usec 20usec
R_R47         N53650 N53622  10 TC=0,0 
R_R46         0 N53204  10k TC=0,0 
X_M8         N53284 N53650 N53314 IRFP460
R_R50         N53650 N53314  10k TC=0,0 
R_R49         N53656 0  10k TC=0,0 
R_R51         N53250 0  150k TC=0,0 
R_R52         N53284 N53250  150k TC=0,0 

.subckt SCHEMATIC1_TX9 1 2 3 4  
K_TX9         L1_TX9 L2_TX9 1
L1_TX9         1 2 1000uH
L2_TX9         3 4 1000uH
.ends SCHEMATIC1_TX9

.subckt SCHEMATIC1_TX10 1 2 3 4  
K_TX10         L1_TX10 L2_TX10 1
L1_TX10         1 2 1000uH
L2_TX10         3 4 1000uH
.ends SCHEMATIC1_TX10
